US04792562
N-(2-Chloro-1H-pyrrol-1-yl)-N-propyl-4-pyridinamine hydrochloride
To a solution of N-propyl-N-(1H-pyrrol-1-yl)-4-pyridinamine (11 g) in 250 ml of tetrahydrofuran, cooled with an ice bath, was added N-chlorosuccinimide (8 g) as a powder. The reaction mixture was warmed to ambient temperature and after sixteen hours additional N-chlorosuccinimide (1 g) was added. After stirring for additional three hours, the reaction mixture was stirred with cold water, basified with sodium carbonate and extracted with ethyl acetate. The organic extract was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and evaporated to 14 g of oil. This oil was purified by HPLC (silica, ethyl acetate-dichloromethane) to give 4.1 g of pure product as an oil. This oil was converted to the hydrochloride salt and recrystallized twice from isopropanol-ether to give 2.4 g of crystals, mp 210°-211°.

reactant | N-propyl-N-(1H-pyrrol-1-yl)-4-pyridinamine | 11 g | C(CC)N(C1=CC=NC=C1)N1C=CC=C1 | C12H15N3
reactant | N-chlorosuccinimide | 8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 1 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | N-(2-Chloro-1H-pyrrol-1-yl)-N-propyl-4-pyridinamine hydrochloride | 4.1 g | Cl.ClC=1N(C=CC1)N(C1=CC=NC=C1)CCC | InChI=1S/C12H14ClN3.ClH/c1-2-9-15(11-5-7-14-8-6-11)16-10-3-4-12(16)13;/h3-8,10H,2,9H2,1H3;1H
